US07601722B2
In an analogous manner to general procedure V, 1-[(2E)-4-bromobut-2-en-1-yl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.13 g, 0.33 mmol) was treated with methyl amine to give (2E)-4-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methylbut-2-en-1-amine (105 mg) after treatment with HCl.

reactant | 1-[(2E)-4-bromobut-2-en-1-yl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.33 mmol, 0.13 g | BrC/C=C/CN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C16H14BrFN2O2S
reactant | methyl amine | CN | CH5N
reactant | HCl | Cl | ClH
product | (2E)-4-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methylbut-2-en-1-amine | 105 mg | FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)C/C=C/CNC)(=O)=O | C17H18FN3O2S
